US06509329B1
Synthesis of Ethyl 6-(3,4,5-trimethoxyphenyl)picolinate
3,4,5-Trimethoxyphenylboronic acid (837 mg) and ethyl 6-chloropicolinate (733 mg) were reacted in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 3,4,5-Trimethoxyphenylboronic acid | 837 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | ethyl 6-chloropicolinate | 733 mg | ClC1=CC=CC(=N1)C(=O)OCC | C8H8ClNO2
product | Ethyl 6-(3,4,5-trimethoxyphenyl)picolinate | COC=1C=C(C=C(C1OC)OC)C1=CC=CC(=N1)C(=O)OCC | C17H19NO5
